US04352752
According to the same procedure as in Example 1, 1-(methoxycarbonyl-2-methylpropyl)-3-amino-4-phenylazetidin-2-one (458 mg.) was subjected to hydrogenolysis at 50° C. in ethanol (30 ml.) under a hydrogen pressure of one atmosphere in the presence of a 10% Pd-C (175 mg.). The reaction was completed in 12 hours. The same after-treatment as in Example 1 was followed to give methyl ester of phenylalanylvaline (376 mg., yield: 81.5%) which was an oil. The NMR and IR spectra were completely identical with those of the authentic sample obtained in Example 5.

reactant | 1-(methoxycarbonyl-2-methylpropyl)-3-amino-4-phenylazetidin-2-one | 458 mg | COC(=O)C(C(C)C)N1C(C(C1C1=CC=CC=C1)N)=O | C15H20N2O3
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Pd-C | 175 mg | [Pd] | Pd
product | phenylalanylvaline | 376 mg, yield: 81.5% | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)O | C14H20N2O3
